Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have been having one month of symptoms which became more 
acute 2 weeks ago"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ reports that about one month prior, she began 
feeling more "depressed", at which point she went to see her 
outpatient psychiatrist. Her psychiatrist proposed increasing 
her lurasidone dose from 20mg qHS to 40mg qHS, which improved 
her mood, but not fully. That prompted further increase of the 
lurasidone by her psychiatrist from 40mg to 60mg qHS. Following 
this change, patient reports feeling "lethargic, with pressure 
in my head, confusion, fogginess, disorientation". When she 
described her symptoms to her psychiatrist, he instructed her to 
discontinue her lurasidone, and to also discontinue her 
quetiapine 50mg qHS and her paroxetine 5mg PO qHS. The 
psychiatrist also instructed her to increase her bupropion dose 
from 100mg qHS to 200mg qHS. This change occurred 2.5 weeks ago 
and led to symptoms of nausea, vomiting, dizziness, and ongoing 
"pressure in my head, feeling confused, and my eyes skipping" - 
she describes worsened dizziness when moving her eyes from side 
to side. At that point she decided to stop seeing her 
psychiatrist.

Ms. ___ reports that during the past 3 weeks, she had been 
experiencing "depressed" mood, along with increased 
irritability, increased "agitation", feeling "more aggressive" 
and describing that people walking behind her on the street make 
her uncomfortable and that she feels they might hurt her, which 
leads to her "snapping" at them. She explains that this is 
typical for her manic episodes: "when I'm manic, I'm not 
euphoric or gee-happy" and instead has difficulties with impulse 
control. In addition, Ms. ___ describes poor sleep, with 
low energy, poor concentration, and poor memory. She explained 
that "I can't function", saying that she hasn't been able to 
shop for groceries, cook, or go to work in the past 2 weeks; she 
tried going to work today, but only made it to the T stop and 
felt too irritable and had to return home. She described feeling 
hopeless and feeling "like I don't want to wake up to this 
anymore...I can't exist like this". She also explained that she 
has been avoiding leaving her home because "I'm freaking out on 
people and I might end up hurting them, or they might hurt me". 
She also stopped driving recently due to fear of getting angry 
and impulsive while driving and potentially hurting someone.

Ms. ___ reports going to the ___ ED one week ago in an 
attempt to get connected with a psychiatrist, and being 
discharge home without any changes in her medications. She then 
spoke to her PCP's office and was referred to ___,  where 
she saw ___, NP this past ___, who instructed her to 
restart quetiapine at 25mg qHS and restart lurasidone 20mg qHS. 
Patient describes improved sleep after this change in 
medications, but without any changes in her other symptoms. She 
came to the ED today because of her inability to function in her 
life and her concerns for her safety and the safety of others.

COLLATERAL:
None

REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: Denies anhedonia, loss of appetite/weight 
changes.
---Anxiety: Denies symptoms of anxiety such as worry, 
rumination, intrusive thoughts, avoidance, phobias, panic.
---Mania: Denies symptoms of mania such as grandiosity, flight 
of ideas, talkativeness/pressured speech.  
---Psychosis: Reports feeling like people walking behind her on 
the street are trying to hurt her. Also describes seeing 
illusions of "flickering objects in the corner of my eye" which 
case her distress. Denies other auditory or visual 
hallucinations, or delusions of reference, paranoia, thought 
insertion/broadcasting/withdrawal.
-General: Reports head pressure, and feeling of "dullness" and 
that moving her eyes feels strange to her. Denies fever, chills, 
nightsweats, headache, focal numbness, focal weakness, changes 
in vision, changes in hearing, heat intolerance, cold 
intolerance, polyuria, polydipsia, cough, SOB, CP, palpitations, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
melena, blood in stools, dysuria, increased urinary frequency, 
rash, skin changes, joint pain, muscle pain, edema, bruising, 
bleeding.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Bipolar disorder, diagnosed at age ___ patient 
had postpartum depression, followed by her first manic episode 
with the main symptom being irritability
-Hospitalizations: three prior: at ages ___, ___, and ___,
respectively. All at ___ 
-Partial hospitalizations: One prior, for 5 days
-Psychiatrist: Dr. ___ (___)
-Therapist: Denies; had therapist for ___ years in the past in 
order to process various past traumatic experiences
-Medication trials: Topiramate, loxapine, aripiprazole, 
olanzapine
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: emotional and "some physical" trauma from mother who 
suffers from mental illness; sexual trauma 
-Access to weapons: Denies
.
PAST MEDICAL HISTORY:
-Hypothyroidism - patient reports TSH level was normal when 
checked by psychiatrist in ___
-Mild sleep apnea
-Chronic low back pain
-Recent sleep study with Dr. ___ note from 
___ no medication changes recommended at that time
-Denies history of head trauma, seizure.
 
Social History:
SOCIAL HISTORY:
-Born/Raised: in ___
-Relationship status/Children: divorced from husband, with whom 
she has a ___ year-old daughter; daughter lives with husband in 
___
-Primary Supports: ex-boyfriend is her main source of support; 
current boyfriend is also a source of support
-Housing: lives in an apartment in ___ with 2 
roommates, one of which is her ex-boyfriend
-Education: graduated from ___ with a 
degree in ___
-Employment/Income: works as an ___ for an 
___
-Spiritual: yes, but does not identify it as a source of support
-Military History: ___
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
.
SUBSTANCE USE HISTORY:
-Caffeine: 1 cup/day
-Tobacco: Denies
-Alcohol: Denies  Endorses/Denies history of alcohol withdrawal, 
DTs, seizures.
-Marijuana: Denies
-Heroin: Denies
-Opiates: Denies
-Benzos: Denies
-Cocaine: Denies
-Amphetamines/speed: Denies
-LSD/PCP: ___: Denies
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: reports mother and middle sister have 
mental illness but does not know exact diagnoses
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies
.
 
Physical Exam:
VS: 98.1 PO, 103 / 69, 77, 16, 99% 

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ spontaneous recall after 5 min, 
with recalling final word with multiple choice prompt; long-term 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 9 quarters = "$2.25"
-Abstraction: Interprets "the grass is always greener on the 
other side" as "Things always look better with someone else's 
situation, but it really isn't."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
-Appearance: Woman appearing slightly younger than her stated 
age, slightly disheveled with messy hair, wearing hospital gown, 
appears anxious
-Behavior: Sitting on the interview chair comfortably, 
appropriate eye contact, slight psychomotor agitation, fidgeting
-Attitude: Cooperative, engaged
-Mood: "anxious"
-Affect: reactive, irritable and labile with tearfulness when 
discussing her daughter and her current struggles getting care. 
slightly hostile when discussing other providers
-Speech: Pressured, still interruptible; normal volume and tone.
-Thought process: Linear, coherent, goal-oriented, but 
circumstantial at times; no loose associations
-Thought Content: Denies active SI  or thoughts of hurting 
others, denies auditory or visual hallucinations. Does not 
appear to be attending to internal stimuli, or internally 
preoccupied.
-Insight: Fair
-Judgment:Fair
 
Pertinent Results:
BLOOD
___ 09:05PM BLOOD WBC-7.0 RBC-3.94 Hgb-12.5 Hct-38.9 
MCV-99* MCH-31.7 MCHC-32.1 RDW-12.2 RDWSD-44.7 Plt ___
___ 11:26AM BLOOD WBC-7.0 RBC-3.91 Hgb-12.6 Hct-38.1 MCV-97 
MCH-32.2* MCHC-33.1 RDW-12.4 RDWSD-44.4 Plt ___
___ 11:26AM BLOOD Neuts-74.9* Lymphs-15.7* Monos-5.4 
Eos-2.9 Baso-0.7 Im ___ AbsNeut-5.23 AbsLymp-1.10* 
AbsMono-0.38 AbsEos-0.20 AbsBaso-0.05
___ 09:05PM BLOOD Plt ___
___ 11:26AM BLOOD Plt ___
___ 09:05PM BLOOD Glucose-118* UreaN-11 Creat-0.9 Na-137 
K-4.2 Cl-101 HCO3-23 AnGap-13
___ 09:05PM BLOOD ALT-7 AST-11 AlkPhos-55 TotBili-0.2
___ 09:05PM BLOOD Calcium-9.1 Phos-3.7 Mg-2.1 Cholest-168
___ 09:05PM BLOOD %HbA1c-4.6 eAG-85
___ 09:05PM BLOOD Triglyc-278* HDL-51 CHOL/HD-3.3 
LDLcalc-61
___ 11:26AM BLOOD TSH-6.1*
___ 09:05PM BLOOD T4-9.5
___ 10:00AM BLOOD Lithium-0.9
___ 11:26AM BLOOD Lithium-1.1
___ 11:26AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

URINE
___ 11:35AM URINE Color-Straw Appear-Clear Sp ___
___ 11:35AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 11:35AM URINE UCG-NEGATIVE
___ 11:35AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 01:55PM URINE UCG-NEGATIVE
 
Brief Hospital Course:
1. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
# Bipolar disorder, mixed episode
___ is a ___ year old woman with hypothyroidism, mild 
obstructive sleep apnea and bipolar disorder since age ___, with 
3 remote hospitalizations ___ years ago, who presented to the ED 
after one month of worsening mood symptoms and impairment in 
functioning, along with passive SI and self-reported concern 
about hurting self or others, all in the setting of med 
adjustments. Initially reported "my meds got out of whack and 
put me into a manic or mixed episode". Her interview was notable 
for worsening mood, irritability and agitation, and poor sleep. 
Her exam on admission was notable for anxious mood/affect, with 
irritability, lability and tearfulness. She denied suicidal 
thoughts at the time. Etiology of her symptoms likely manic 
episode complicated by multiple outpatient medication changes. 
Medical management with unchanged dose of home lithium and 
lamotrigine. Bedtime quetiapine was changed to XR formulation 
and increased to 200mg QHS. She was tried on clonazepam at 
bedtime which was discontinued given excessive daytime 
drowsiness. While admitted the following PRN medications were 
offered: Quetiapine Fumarate 25 mg PO/NG Q6H, Lorazepam 0.5mg 
BID. On this regimen she experienced improvement in her 
irritability, good sleep and improved daytime drowsiness. 
Discharge exam notable for mood congruent euthymic affect, 
linear thought process, and thought content absent for suicidal 
ideation. No evidence of persisting manic symptoms or 
irritability. No evidence of internal preoccupation. Judgment 
and insight were good. 
. 
3. SUBSTANCE USE DISORDERS:
# Patient with no active substance use disorders
.
4. MEDICAL
# Hypothyroidism: TSH on admission was  6.1, with normal T4. 
Home dose of Levothyroxine Sodium 50 mcg PO/NG DAILY was 
continued
.
# Elevated triglycerides, follow up as outpatient
.
5. PSYCHOSOCIAL
# GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient attended some these groups that focused on teaching 
patients various coping skills. She was minimally interactive 
with peers.
.
# COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient not close to family, but will reach out to supportive 
roommate/ex-boyfriend and current boyfriend
.
# INTERVENTIONS
- Medications: unchanged dose of home lithium and lamotrigine. 
Bedtime Quetiapine was changed to XR formulation and increased 
to 200mg QHS. She was tried on clonazepam at bedtime which was 
discontinued given excessive daytime drowsiness. While admitted 
the following PRN medications were offered: Quetiapine Fumarate 
25 mg PO/NG Q6H, Lorazepam 0.5mg BID.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: As per discharge worksheet
- Behavioral Interventions: Encouraged coping skills
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
increasing her quetiapine, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 
appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
irritability and mania.  Their static factors noted at that time 
include history of abuse, chronic mental illness. The modifiable 
risk factors such as lack of engagement with outpatient 
treatment were also addressed at that time via social work 
intervention. Finally, the patient is being discharged with many 
protective risk factors, such as help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, 
children, lack of suicidal ideation. Patient also demonstrated 
preserved capacity to engage in a meaningful conversation about 
safety planning about what she would do in the event of 
worsening irritability or mania (e.g. contact psychiatrist, call 
___, or present to the emergency department). Overall, based on 
the totality of our assessment at this time, the patient is not 
at an acutely elevated risk of self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lithium Carbonate 1200 mg PO QHS 
2. LamoTRIgine 400 mg PO QHS 
3. QUEtiapine Fumarate 50 mg PO QHS 
4. lurasidone 20 mg oral QHS 
5. BuPROPion 100 mg PO QHS 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Xulane (norelgestromin-ethin.estradiol) 150-35 mcg/24 hr 
transdermal 1X/WEEK 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN nasal 
congestion 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO DAILY:PRN anxiety, irritabiliy, insomnia 

RX *lorazepam 0.5 mg 1 tablet by mouth daily Disp #*14 Tablet 
Refills:*0 
2.  QUEtiapine extended-release 200 mg PO QHS  
3.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN nasal 
congestion  
4.  LamoTRIgine 400 mg PO QHS  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Lithium Carbonate 1200 mg PO QHS  
7.  Xulane (norelgestromin-ethin.estradiol) 150-35 mcg/24 hr 
transdermal 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar I Disorder, Current Episode Manic (Irritable)

 
Discharge Condition:
98.1 PO, 103 / 69, 77, 16, 99%
Age appearing woman, casually dressed, in no acute distress. 
Mood congruent euthymic affect, linear thought process, and 
thought content absent for suicidal ideation. No evidence of 
persisting manic symptoms or irritability. No evidence of 
internal preoccupation. Judgment and insight good.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___